US07977331B1
To a solution of methyl 3-cyclohexyl-2-(2,4-dihydroxyphenyl)-1-(2-hydroxyethyl)-1H-indole-6-carboxylate (10.3 g, 28.2 mmol) in tetrahydrofuran (500 ml) were added triphenylphosphine (7.3 g, 27.7 mmol) and diethyl azodicarboxylate (4.4 ml, 27.7 mmol) under ice-cooling, and the mixture was stirred for 4 hr. The reaction mixture was concentrated and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=3:2) to give methyl 12-cyclohexyl-3-hydroxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (6.5 g, yield 66%).

reactant | methyl 3-cyclohexyl-2-(2,4-dihydroxyphenyl)-1-(2-hydroxyethyl)-1H-indole-6-carboxylate | 28.2 mmol, 10.3 g | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CCO)C1=C(C=C(C=C1)O)O | C24H27NO5
reactant | triphenylphosphine | 27.7 mmol, 7.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 27.7 mmol, 4.4 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | methyl 12-cyclohexyl-3-hydroxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 6.5 g, yield 66% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)O)C=C(C=C2)C(=O)OC | C24H25NO4
